US06150521
At 80° C., 10.1 g (0.05 mol) of benzofuran-2,3-dione 2-[O-(2-hydroxy-ethyl)-oxime] (VII-1) in 50 ml of N-methyl-2-pyrrolidinone are stirred with 3.5 g of hydroxylamine hydrochloride for 2 hours. The reaction mixture is poured into water and the resulting mixture is extracted with ethyl acetate, the organic phase is dried over sodium sulphate and the solvent is distilled off under reduced pressure. The residue is then chromatographed over silica gel using tert-butyl methyl ether/petroleum ether (1:1). The eluent is distilled off under reduced pressure, affording 4.2 g (29.6% of theory) of benzofuran-2,3-dione 2-[O-(2-hydroxy-ethyl)-oxime] 3-oxime consisting of 62.4% of isomer A and 15.8% of isomer B (HPLC).

reactant | benzofuran-2,3-dione 2-[O-(2-hydroxy-ethyl)-oxime] | 0.05 mol, 10.1 g | OCCON=C1OC2=C(C1=O)C=CC=C2 | C10H9NO4
reactant | hydroxylamine hydrochloride | 3.5 g | Cl.NO
reactant | water | O | H2O
solvent | N-methyl-2-pyrrolidinone | 50 ml | CN1C(CCC1)=O | C5H9NO
product | benzofuran-2,3-dione 2-[O-(2-hydroxy-ethyl)-oxime] 3-oxime | 4.2 g, 29.6% | OCCON=C1OC2=C(C1=NO)C=CC=C2 | C10H10N2O4
